* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE02\LTspice\COMB01op.asc
Vcc X 0 {Vcc}
R1 B 0 {R1}
R2 B X {R2}
D1 B C DZ1
D2 0 C DZ2
.model D D
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.param Vcc=2.500e+01 R1=1.200e+02 R2=1.200e+02
.model DZ1 D(Is=1.000e-14 n=1.200e+00 bv=3)
.model DZ2 D(Is=2.000e-14 n=2.000e+00 bv=3)
.meas vz1 param v(B)-v(C)
.meas vz2 param -v(C)
.meas VR2 PARAM v(x)-v(b)
.backanno
.end
